US04171369
(3aRS,4SR,9aSR)-2-cyclopropylmethyl-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]-isoindoline [process (g)]
1 g of lithium aluminium hydride is added portionwise to a warm solution of 8.6 g of (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]-isoindoline-2-cyclopropylcarboxylic acid amide in 100 cc of tetrahydrofuran. The mixture is stirred at room temperature for 1 hour, is then decomposed with a 2 N caustic soda solution and filtered. The concentrated filtrate is reduced to a paste with silica gel in benzene/ethyl acetate (1:1), filtration and concentration by evaporation are effected, whereby the title compound, having a M.P. of 65-68° (after crystallization from pentane), is obtained.

reactant | lithium aluminium hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]-isoindoline 2-cyclopropylcarboxylic acid amide | 8.6 g | C1(=CC=CC=C1)C1C2=C(CC3CNCC13)C=CC=C2.C1C(C1)C(=O)N
reactant | caustic soda | 2 N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
product | (3aRS,4SR,9aSR)-2-cyclopropylmethyl-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]-isoindoline | C1(CC1)CN1CC2C(C3=C(CC2C1)C=CC=C3)C3=CC=CC=C3 | C22H25N
